US04271294
(2,2-di-(2-diethylaminoethoxy)-1,2-diphenyl-ethanone)
20 g (0.057 mole) of benzil-di-(2-chloroethyl)ketal are stirred with 150 g (2.05 moles) of diethylamine for 24 hours at 140° C. in a pressure autoclave. After cooling, the reaction mixture is taken up in ether and extracted with water. The ether layer is dried over Na2SO4 and concentrated. The residual oil is dried in a high vacuum.

reactant | benzil-di-(2-chloroethyl)ketal | 0.057 mole, 20 g | ClCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCCl | C18H18Cl2O3
reactant | diethylamine | 2.05 moles, 150 g | C(C)NCC | C4H11N
solvent | ether | CCOCC | C4H10O
product | 2,2-di-(2-diethylaminoethoxy)-1,2-diphenyl-ethanone | C(C)N(CCOC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OCCN(CC)CC)CC | C26H38N2O3
